US07683091B2
Benzenesulfonyl chloride (0.56 g, 3.12 mmol) was added in one portion to 1-(4-tert-butylbenzyl)-5-amino-1H-indole (0.84 g, 3.02 mmol) and diisopropylethylamine (0.43 g, 3.17 mmol) in CH2Cl2 (20 ml) at 0° C. under a nitrogen atmosphere. The resulting yellow solution was stirred at 0° C. for 5 minutes and then at room temperature for 2 hours. The reaction was quenched with water (2 ml) and then concentrated in vacuo to a brown powder. The powder was partitioned between EtOAc (15 ml) and std NaHCO3 (10 ml). All organics were combined, extracted with water (10 ml) and brine (10 ml), dried with MgSO4, filtered and concentrated in vacuo to a brown powder. Gradient SiO2 chromatography (Hexane:EtOAc) afforded N-[1-(4-tert-butyl-benzyl)-1H-indol-5-yl]-benzenesulfonamide as a brown powder (1.18 g, 94% yield): MS (ESI) m/z 419, MS (ESI) m/z 417.

reactant | Benzenesulfonyl chloride | 3.12 mmol, 0.56 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 1-(4-tert-butylbenzyl)-5-amino-1H-indole | 3.02 mmol, 0.84 g | C(C)(C)(C)C1=CC=C(CN2C=CC3=CC(=CC=C23)N)C=C1 | C19H22N2
reactant | diisopropylethylamine | 3.17 mmol, 0.43 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Hexane | CCCCCC | C6H14
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-[1-(4-tert-butyl-benzyl)-1H-indol-5-yl]-benzenesulfonamide | 1.18 g, 94% yield | C(C)(C)(C)C1=CC=C(CN2C=CC3=CC(=CC=C23)NS(=O)(=O)C2=CC=CC=C2)C=C1 | C25H26N2O2S
